US06080743
N-(7-Bromo-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-methanesulfonic acid amide
83 mg (0.31 mmol) of 5-aminomethyl-7-bromo-2,3-dioxo-1,2,3,4-tetrahydroquinoxaline are suspended in 4 ml of DMF. 0.063 ml (1.6 equiv.) of triethylamine and 82 mg (1.4 equiv.) of methanesulfonic anhydride are added and the solution is stirred for 18 hours. The solvent is concentrated by evaporation and the residue is suspended in diethyl ether. The solid is filtered off, washed with water and diethyl ether and dried. The title compound is obtained in the form of a white powder. M.p.>300° C.

reactant | 5-aminomethyl-7-bromo-2,3-dioxo-1,2,3,4-tetrahydroquinoxaline | 0.31 mmol, 83 mg | NCC1=C2NC(C(NC2=CC(=C1)Br)=O)=O | C9H8BrN3O2
reactant | triethylamine | 0.063 ml, 1.6 equiv. | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 82 mg, 1.4 equiv. | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | N-(7-Bromo-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-methanesulfonic acid amide | BrC1=CC(=C2NC(C(NC2=C1)=O)=O)CNS(=O)(=O)C | C10H10BrN3O4S
